US08476297B2
To a solution of 3,4-dihydroisoquinoline (4.00 g, 30.5 mmol) and CH3CN (50 mL) at 0° C. was added acetyl chloride (2.13 mL, 30.5 mmol) over 2 min. The reaction was stirred 30 min and 1H-indole (3.57 g, 30.5 mmol) and triethylamine (4.25 mL, 30.5 mmol) in CH3CN (5 mL) were added and the reaction warmed to RT. The reaction was stirred under N2 3 h, then quenched with 10% HCl (100 mL), and extracted with CH2Cl2 (3×100 mL). The combined organic layers were washed with NaHCO3 (100 mL), dried (Na2SO4), and concentrated to give the crude product as a white solid (9.2 g). The solid was dissolved in CH2Cl2 (50 mL) to give a suspension which was filtered and the solid collected. The white solid (3.55 g) was recrystallized from hot acetone (230 mL) and cooled at −20° C. overnight to give 1-(1-(1H-indol-3-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone as a white crystalline solid.

reactant | 3,4-dihydroisoquinoline | 30.5 mmol, 4.00 g | C1=NCCC2=CC=CC=C12 | C9H9N
reactant | acetyl chloride | 30.5 mmol, 2.13 mL | C(C)(=O)Cl | C2H3ClO
reactant | 1H-indole | 30.5 mmol, 3.57 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | triethylamine | 30.5 mmol, 4.25 mL | C(C)N(CC)CC | C6H15N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 1-(1-(1H-indol-3-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | N1C=C(C2=CC=CC=C12)C1N(CCC2=CC=CC=C12)C(C)=O | C19H18N2O
